US06900216B2
A solution of bromine (9.2 ml) in dichloromethane (200 ml) was added dropwise under nitrogen at −5° C. over 30 minutes to a stirred mixture of 4-fluorobenzo[b]thiophene (24.7 g), sodium acetate (20 g) and dichloromethane (200 ml). The mixture was stirred at ambient temperature for 24 hours, then it was filtered and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (50 ml), water (200 ml) and zinc dust (34.3 g) were added, then the mixture was stirred and heated under reflux for 10 hours, cooled to ambient temperature and filtered through Celite. The Celite was washed with ethyl acetate (200 ml) then the combined organic solutions were washed with saturated aqueous sodium chloride solution (100 ml), dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by distillation in vacuo to give 3-bromo-4-fluorobenzo[b]thiophene (12.5 g) as a pale yellow oil, b.p. 70-85° C. @ 0.53 mbar.

reactant | bromine | 9.2 ml | BrBr | Br2
reactant | 4-fluorobenzo[b]thiophene | 24.7 g | FC1=CC=CC=2SC=CC21 | C8H5FS
reactant | sodium acetate | 20 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-bromo-4-fluorobenzo[b]thiophene | 12.5 g | BrC=1C2=C(SC1)C=CC=C2F | C8H4BrFS
